US05798364
A solution of 2.82 g of trifluoromethanesulphonic anhydride in 10 ml of CH2Cl2 is added dropwise to a solution of 3.72 g of 3-(2'-aminobiphenyl-4-ylmethyl)-2-butyl-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]pyridine and 1.01 g of triethylamine in 30 ml of CH2Cl2 at -50°to -60°. The mixture is left to warm up to 20° and poured into dilute acetic acid to give 2-butyl-4,5-dihydro-4-oxo-3-(2'-trifluoromethanesulphonamidobiphenyl-4-ylmethyl)-3H-imidazo[4,5-c]pyridine after conventional working-up.

reactant | trifluoromethanesulphonic anhydride | 2.82 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-(2'-aminobiphenyl-4-ylmethyl)-2-butyl-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]pyridine | 3.72 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(NC=C2)=O)CCCC | C23H24N4O
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-butyl-4,5-dihydro-4-oxo-3-(2'-trifluoromethanesulphonamidobiphenyl-4-ylmethyl)-3H-imidazo[4,5-c]pyridine | C(CCC)C1=NC2=C(C(NC=C2)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F | C24H23F3N4O3S
